US08809325B2
3-[3-Fluoro-4-((R)-2-methoxy-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-5-ylmethyl)phenyl]azetidine-1-carboxylic acid tert-butyl ester
Zinc dust (252 mg) was suspended in DMA (0.5 ml) and heated to 65° C. Subsequently, trichloromethylsilane (27 mg) and dibromoethane (34 mg) were added and the mixture was stirred at 65° C. for 30 min. Then 1-BOC-3-iodoazetidine (465 mg) in 0.5 ml of DMA was added dropwise and the mixture was stirred for a further 30 min. (R)-5-(4-bromo-2-fluorobenzyl)-2-methoxy-6,6-dimethyl-5,6-dihydro-[1,4,3]oxathiazine 4,4-dioxide (250 mg) was dissolved in 1 ml and added dropwise to the warm solution, and the mixture was stirred at 65° C. for a further 30 min. Copper(I) iodide (25 mg) and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride (53 mg) were added and the suspension was heated to 85° C. for 1 hour. After cooling, the mixture was filtered through a membrane. The solution was purified by means of preparative HPLC. This gave the product (91 mg) with a molecular weight of 456.5 g/mol (C21H29FN2O6S), MS (ESI): (M-butene+H+) 401.5 g/mol.

reactant | trichloromethylsilane | 27 mg | ClC(Cl)(Cl)[SiH3] | CH3Cl3Si
reactant | dibromoethane | 34 mg | BrC(C)Br | C2H4Br2
reactant | 1-BOC-3-iodoazetidine | 465 mg | C(=O)(OC(C)(C)C)N1CC(C1)I | C8H14INO2
reactant | (R)-5-(4-bromo-2-fluorobenzyl)-2-methoxy-6,6-dimethyl-5,6-dihydro-[1,4,3]oxathiazine 4,4-dioxide | 250 mg | BrC1=CC(=C(C[C@H]2S(N=C(OC2(C)C)OC)(=O)=O)C=C1)F | C13H15BrFNO4S
solvent | DMA | 0.5 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 0.5 ml | CC(=O)N(C)C | C4H9NO
catalyst | Zinc | 252 mg | [Zn] | Zn
catalyst | Copper(I) iodide | 25 mg | [Cu]I
catalyst | 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) chloride | 53 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-[3-Fluoro-4-((R)-2-methoxy-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-5-ylmethyl)phenyl]azetidine-1-carboxylic acid tert-butyl ester | 91 mg | C(C)(C)(C)OC(=O)N1CC(C1)C1=CC(=C(C=C1)C[C@H]1S(N=C(OC1(C)C)OC)(=O)=O)F | C21H29FN2O6S
